Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chronic HTN with preeclampsia severe by BP and ___
 
Major Surgical or Invasive Procedure:
induction of labor
iv magnesium for seizure prophylaxis
primary cesarean section
cardiac telemetry

 
History of Present Illness:
___ G3P0 @ 23w4d with IVF pregnancy presents from the ___
for episode of dizziness and tachycardia to 130's noted there. 

She reports leaving work this afternoon and experiencing an
episode of 'feeling faint' and dizzy while walking to her car
after work. This occurred suddenly ___ after she rose from a
seated position and went to her car. Once she was in her car and
seated, she began to feel improved and felt well enough to drive
to the ___ for her scheduled ultrasound. She denies CP and 
chest
tightness during this episode. She does not believe she blacked
out, but is unsure of this. She denies any dizziness, CP, or SOB
currently. 

Reports that over the past 3 weeks she has had worsening dyspnea
on exertion - could previously walk up the stairs at work 
without
difficulty, and now she must take a break once she reaches the
top of the stairs. Also notes a recent dx of ? asthma, and has
been wheezing. Does not use an inhaler and denies allergies.
Denies orthopnea, uses CPAP. 

Had similar complaint at the beginning of pregnancy and was seen
in the ED for workup on ___. At that time, troponins were
negative, D-Dimer was elevated, and a CT was negative for PE. 

+AFM. Denies VB, LOF. Denies HA, visual changes, RUQ pain.

PNC: Records pending
*) Dating: ___ ___
*) Labs: Rh neg/Ab neg
*) Routine: LR NIPT
*) U/s ___ for AMA: 331gm
*) Issues:
     * cHTN
     * AMA
     * IVF pregnancy from ___ egg donor
 
Past Medical History:
Depression
CCY ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
VSS
Gen: NAD, obese
CV: RRR
Lungs: CTA
Abd: soft, non-tender, incision c/d/I
Ext: 1+ pitting edema
 
Pertinent Results:
___ 12:53PM URINE  HOURS-RANDOM CREAT-119 TOT PROT-9 
PROT/CREA-0.1
___ 12:53PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:53PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:53PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 12:53PM URINE  AMORPH-RARE
___ 12:53PM URINE  MUCOUS-RARE
___ 12:52PM   CREAT-0.6
___ 12:52PM   estGFR-Using this
___ 12:52PM   ALT(SGPT)-18 AST(SGOT)-24
___ 12:52PM   URIC ACID-4.6
___ 12:52PM   WBC-8.9 RBC-3.27* HGB-9.8* HCT-30.1* MCV-92 
MCH-30.0 MCHC-32.6 RDW-15.8* RDWSD-52.8*
___ 12:52PM   PLT COUNT-280
 
Brief Hospital Course:
The patient is a ___ G2 P0 who presented
to labor and delivery at 41 weeks for a postdates induction
of labor and a diagnosis of chronic hypertension.  The
patient was admitted with an unfavorable cervix and  was induced
with Cytotec and Pitocin.  During her labor course, she
progressed to 5 cm with spontaneous rupture of membranes at
approximately 2 a.m. on the day of surgery. She failed to make
any cervical change for 10 hours on Pitocin, had an IUPC
placed that demonstrated inadequate contractions. Additionally, 
she was noted to have blood-tinged urine and severe range blood
pressures with systolics in the 180s and diastolics in the
80-120s. Given these concerning developments, she underwent an
evaluation of superimposed preeclampsia with severe features.
Laboratory analysis confirmed the diagnosis with an elevation in
her creatinine from 0.6 baseline, on admission to the hospital,
to 1.2 on the morning prior to surgery. We discussed the
diagnosis of preeclampsia with severe features and the
recommendation for magnesium as well as expediting delivery.
Given her stalled labor, cesarean section was discussed.  We
discussed the risks of surgery including bleeding, infection,
injury to surrounding organs, including bowel, bladder, blood
vessels, ureters, nerves, and fetus as well as blood clots, the
risk of blood transfusion, and the risk of hysterectomy and very
rarely death.  We discussed the need for a possible repair of 
any
injuries and subsequent surgeries to do so.  We reviewed that we
could attempt to continue trying to get her into labor; however,
after 10 hours of no cervical change on Pitocin with ruptured
membranes at 5 cm, we discussed that it was unlikely that she
would progress quickly and that her preeclampsia may
worsen and her kidney injury may be exacerbated prior to the
delivery. Given all of this, the patient agreed to a cesarean
delivery.

Her creatinine was trended postpartum and trended down. She 
received magnesium for 24 hours postpartum. Her blood pressures 
remained in normal to mild range. She received heparin 5000 BID 
for prophylaxis and was maintained on telemetry with CPAP for 
sleep apnea. She was discharged on ___ in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
PNV
 
Discharge Medications:
1. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth four times a day 
Disp #*50 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth four times a day Disp 
#*50 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pre ecclampsia, severe
elderly primigravida
post dates pregnancy
arrest of dilatation of labor
morbid obesity
sleep apnea

 
Discharge Condition:
good

 
Discharge Instructions:
rest. no heavy lifting, exercise,baths for 4 weeks
 
Followup Instructions:
___